US03971791
Upon boiling a solution of 10.4 g of 2-furfurylideneacetoacetic acid ethyl ester and 6.5 g of amidinoacetic acid ethyl ester in 100 ml of ethanol for 2 hours, 2-amino-6-methyl-4-(fur-2-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 183°C (isopropanol) is obtained. Yield: 78% of theory.

reactant | 2-furfurylideneacetoacetic acid ethyl ester | 10.4 g | C(C)OC(C(C(=O)C)=CC1=CC=CO1)=O | C11H12O4
reactant | amidinoacetic acid ethyl ester | 6.5 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-(fur-2-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 78% | C(C)OC(=O)C1=C(NC(=C(C1C=1OC=CC1)C(=O)OCC)C)N | C16H20N2O5
